data/rdb19/train.csv
rxn,smiles,ea
4469,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:10])([H:11])[H:27])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9],27.01364666194422
1123,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:14]([C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],14.832302110560704
1642,[C:15]([O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][O:16][C:17](=[C:18]([H:23])[H:24])[H:22],64.71337981778197
4017,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[C:20]([H:26])([H:27])[H:28])([H:11])([H:12])[H:13].[C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31],62.87128950608894
364,[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])([c:8]1[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]1[H:27])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16].[O:1]([O:2])[H:3]>>[H:3][C:5]([C:4]([H:14])([H:15])[H:16])([C:6]([C:7]([H:20])([H:21])[H:22])([c:8]1[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]1[H:27])[H:19])[H:17].[O:1][O:2][H:18],48.44512573542306
4239,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18](=[C:19]([H:28])[H:29])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[H:30])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],32.05929767800262
2479,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([O:25][O:26])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])([H:15])[O:26][O:25][C:24]([H:27])([H:28])[H:29])([H:13])[H:14])([H:10])([H:11])[H:12].[C:7]([H:16])([H:17])[H:18],69.61280798824737
2762,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[H:35])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])[c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])([H:33])[H:34])([H:30])([H:31])[H:32],19.214713700290304
5008,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:6])[H:7].[H:5][C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:14])[O:15][C:16]([H:22])([H:23])[H:24],23.69532597850776
1538,[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([H:21])[H:22])([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])[H:6]>>[O:1]([C:2]([O:3][H:22])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:18])([H:19])[H:20])[H:21])([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])[H:6],17.552891714964062
960,[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([N:14]([H:19])[H:20])([O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11].[C:3]1([H:4])([H:5])[C:15]([N:14]([H:19])[H:20])([C:17](=[C:18]([H:22])[H:23])[H:21])[O:16]1,52.57272581878351
961,[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:18]([C:17]([C:15]([N:14]([H:19])[H:20])=[O:16])[H:21])([H:22])[H:23])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],11.753752856864594
